* Z:\mnt\design.r\spice\examples\3025.asc
R1 OUT N002 80.6K
R2 N002 0 40.2K
C1 OUT 0 1µ
XU1 IN 0 N001 OUT N002 N001 LTC3025
V1 N001 0 PWL(0 0 1 5.5)
V2 IN 0 3.6
Rload OUT 0 4
.tran 1
.lib LTC3025.lib
.backanno
.end
